US03997536
Preparation of 5-n-butyl-2-(4-cyanophenyl)-pyrimidine
11.23 G. of 4-(4-n-butylpyrimid-2-yl)-benzoic acid amide are maintained at reflux for 90 minutes in a mixture of 250 ml. of ethylene chloride and 4.5 ml. of phosphorus oxychloride with stirring. The mixture, diluted with ether, is washed with 2-N sodium hydroxide and then with water until neutral. The organic phase is dried over sodium sulfate and evaporated to give 11.77 g. of 5-n-butyl-2-(4-cyanophenyl)-pyrimidine which are distilled in a high vacuum; melting point 60.9°-61.8° C.

reactant | 4-(4-n-butylpyrimid-2-yl)-benzoic acid amide | C(CCC)C1=NC(=NC=C1)C1=CC=C(C(=O)N)C=C1 | C15H17N3O
reactant | ethylene chloride | C(CCl)Cl | C2H4Cl2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ether | CCOCC | C4H10O
product | 5-n-butyl-2-(4-cyanophenyl)-pyrimidine | C(CCC)C=1C=NC(=NC1)C1=CC=C(C=C1)C#N | C15H15N3
